US09315458B2
K) rac-4-cyano-2-ethenyl-N-(trans-2-hydroxycyclohexyl)-3-methyl-5-[4-(1H-pyrazol-1-yl)benzyl]benzamide
To a solution of 4-cyano-2-ethenyl-3-methyl-5-[4-(1H-pyrazol-1-yl)benzyl]benzoic acid (0.10 g), trans-2-aminocyclohexanol hydrochloride (0.06 g), 1-hydroxybenzotriazole (0.06 g) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.08 g) in dichloromethane (5.00 mL) was added triethylamine (0.11 g), and the mixture was stirred for 16 hr. The reaction mixture was poured into 1N hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with 1N hydrochloric acid and saturated aqueous sodium bicarbonate solution, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (0.10 g).

reactant | 4-cyano-2-ethenyl-3-methyl-5-[4-(1H-pyrazol-1-yl)benzyl]benzoic acid | 0.10 g | C(#N)C1=C(C(=C(C(=O)O)C=C1CC1=CC=C(C=C1)N1N=CC=C1)C=C)C | C21H17N3O2
reactant | trans-2-aminocyclohexanol hydrochloride | 0.06 g | Cl.N[C@H]1[C@@H](CCCC1)O
reactant | 1-hydroxybenzotriazole | 0.06 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.08 g | Cl.CN(CCCN=C=NCC)C
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dichloromethane | 5.00 mL | ClCCl | CH2Cl2
solvent | triethylamine | 0.11 g | C(C)N(CC)CC | C6H15N
product | rac-4-cyano-2-ethenyl-N-(trans-2-hydroxycyclohexyl)-3-methyl-5-[4-(1H-pyrazol-1-yl)benzyl]benzamide | 0.10 g | C(#N)C1=C(C(=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C=C1CC1=CC=C(C=C1)N1N=CC=C1)C=C)C | C27H28N4O2
